US09035023B2
ii) Synthesis of Boc-Leu-(CH2)3—CH3
Magnesium (0.330 g, 13.6 mmol) was activated by suspending in toluene for 30 min under N2. The toluene was removed and the Mg was dried under N2. To the suspension of Mg in THF (20 mL) was added bromobutane (1.46 mL, 13.6 mmol) dropwise and the mixture was heated at reflux. When all the magnesium was dissolved, Boc-Leu-N(OCH3)CH3 in THF was added dropwise and the reaction was stirred for 2 h at 0° C. 1M HCl (150 mL) was added followed by ethylacetate (100 mL). The organic layer was washed with 1M potassium hydrogen sulfate, water, dried (Na2SO4) and concentrated in vacuum. The expected product was purified by silica gel column chromatography. The product was characterized by 1H-NMR and 13C-NMR. ESI-MS: calcd. 271. found 293.3 [M+Na]+.

reactant | Magnesium | 13.6 mmol, 0.330 g | [Mg] | Mg
reactant | bromobutane | 13.6 mmol, 1.46 mL | BrCCCC | C4H9Br
reactant | Boc-Leu-N(OCH3)CH3 | N([C@@H](CC(C)C)C(=O)N(OC)C)C(=O)OC(C)(C)C | C13H26N2O4
reactant | HCl | 1M, 150 mL | Cl | ClH
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | THF | C1CCOC1 | C4H8O
solvent | ethylacetate | 100 mL | C(C)OC(C)=O | C4H8O2
product | Boc-Leu-(CH2)3—CH3 | N([C@@H](CC(C)C)C(=O)CCCC)C(=O)OC(C)(C)C | C15H29NO3
